Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right arm and leg weakness; Aphasia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ man with a past medical history of
ischemic stroke (left parietal, right frontal, lacunar), atrial
fibrillation on Coumadin who presented with acute onset right 
arm
and leg weakness with aphasia to outside hospital where he was
given TPA and transferred for consideration of thrombectomy.

Patient's daughter at bedside reports that patient was in his
usual state of health today, and had had a glass of wine with 
his
grandson at ___.  Daughter said that she came into the
room at 6:45 ___, and he said that he needed to sit down.  As he
sat down, she noticed that his right face began to droop in his
right arm became limp by his side.  She said that he was saying
words that did not make sense and was not able to follow
commands.  Patient was brought to the ED, where code stroke was
activated.  Patient's INR was 1.6, and so the decision was made
to proceed with TPA administration, which was given at 20: 30. 
Patient was then transferred to ___ for consideration of
thrombectomy.  On arrival to ___, patient's physical exam was
markedly improved, and repeat CT head did not show any bleed. 
There was no large vessel occlusion on CTA that would be 
amenable
to thrombectomy.
Of note, the patient was recently taken off his Coumadin.  On
___, the patient's INR was 6.7.  His primary 
care
doctor called and told him to stop taking Coumadin, and 
restarted
1 mg of Coumadin on ___.  The patient took 1 mg 
of
Coumadin on ___ mg on the ___.  On the
morning of ___, the patient said to his daughter that he
wanted to get in touch with his primary care doctor about
rechecking his INR because he was concerned that he was going to
have a stroke.
 
Patient denied any headache, double vision, dysarthria, 
tinnitus.
He endorses chronic hearing loss.  No recent illnesses, no chest
pain or shortness of breath.  Endorses low heart rate as a
chronic issue, says he used to be a runner.

 
Past Medical History:
Atrial fibrillation on Coumadin
Prior ischemic infarcts with mild residual aphasia (unclear
details of the aphasia but did not interfere with day to day
language per daughter)
 
Social History:
___
Family History:
Deferred, code stroke
 
Physical Exam:
==============
ADMISSION EXAM
==============
Physical Exam:
Vitals: T: 98.3 HR: 42 BP: 152/72 RR: 18 SaO2: 97% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:  
-Mental Status: Alert, oriented, attentive. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt. was able to name both high and 
low
frequency objects on stroke card. Able to read without
difficulty. Speech was not dysarthric. Able to follow both
midline and appendicular commands. There was no evidence of
neglect.  

CN  
I: not tested  
II,III: VFF to confrontation, left pupil post surgical and
slightly sluggish but both 3-->2 bilaterally
III,IV,VI: EOMI, no ptosis. No nystagmus  
V: sensation intact V1-V3 to LT  
VII: Facial strength intact/symmetrical, symm forehead wrinkling 

VIII: hard of hearing
IX,X: palate elevates symmetrically, uvula midline  
XI: SCM/trapezeii ___ bilaterally  
XII: tongue protrudes midline, no dysarthria  

Motor: Normal bulk and tone, no rigidity; no asterixis or
myoclonus. No pronator drift.  
  Delt Bi Tri WE FE Grip  IO  
  C5   C6 C7  C6 C7 C8/T1 T1  
L 5    ___  5  5     5
R 5    5  4+  ___     5
 
  IP Quad ___ PF  
  L2 L3   L4-S1 L4 L5  S1/S2  
L 5  5     5    ___ 
R 5  5     5    ___

Reflex: No clonus  
  Bi Tri Bra Pat An Plantar  
  C5 C7  C6  L4  S1 CST  
L ___   2   ___ Flexor  
R ___   2   1 Mute 
+pec jerks bilaterally
-Sensory: No deficits to light touch. No extinction to DSS. 
 
-Coordination: No intention tremor, no dysmetria FTN or HKS
bilaterally. 

-Gait: deferred code stroke

==============
DISCHARGE EXAM
==============
VS: Temp: 98.9 (Tm 98.9), BP: 148/61 (140-156/58-62), HR: 50
(43-56), RR: 16 (___), O2 sat: 95% (94-97), O2 delivery: Ra  

Exam
General: Awake, cooperative, NAD.
HEENT: no scleral icterus noted, no lesions noted in
oropharynx. Poor hearing.
Neck: Supple
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: Pulses palpated bilaterally
Skin: no rashes or lesions noted.
 
Neurologic:  

Mental Status: Alert, oriented, attentive. Able to repeat "It is
a sunny day in ___. Naming intact. Normal prosody. There 
were
no paraphasic errors. Patient was able to name both high and low
frequency objects (watch/strap). Able to read without
difficulty. Speech was not dysarthric. Able to follow both
midline and appendicular commands. ___ has moderate to severe
hearing loss. Some of the exam appears affected by attention
issues, hearing deficits, or both.

CN  
II,III: VFF to confrontation. Pupils slow to react to light,
bilaterally. Diameter 1mm bilaterally. Acuity: ___ using
Tumbling E chart.
III,IV,VI: Extraocular movements intact, no ptosis. No 
nystagmus.

V: sensation intact V1-V3 to light touch  
VII: Facial strength intact/symmetrical, symmetric forehead
wrinkling 
VIII: Decreased hearing
IX,X: palate elevates symmetrically, uvula midline  
XI: SCM/trapezeii ___ bilaterally  
XII: tongue protrudes midline, no dysarthria  

Motor: Normal bulk and tone, no rigidity; no asterixis or
myoclonus. No pronator drift.  

  Delt Bi Tri WE FE FF   IO   
L 5    ___  5  5     5
R 5    5  4+  ___     5
 
  IP Quad ___ PF  
L 4+  5     5    ___ 
R 4+  5     5    ___

Reflex: No clonus  
  Bi Tri Bra Pat An Plantar  
L ___   2   2  Up  
R ___   2   2  Up 

-Sensory: No deficits to light touch. No extinction to Dual
sensory stimulation. 
 
-Coordination: No intention tremor. 

-Gait: Deferred this AM.
 
Pertinent Results:
====
LABS
====
___ 10:09PM BLOOD WBC-7.5 RBC-3.57* Hgb-10.7* Hct-31.7* 
MCV-89 MCH-30.0 MCHC-33.8 RDW-17.9* RDWSD-56.8* Plt ___
___ 05:25AM BLOOD WBC-7.5 RBC-3.42* Hgb-9.9* Hct-30.4* 
MCV-89 MCH-28.9 MCHC-32.6 RDW-17.7* RDWSD-56.6* Plt ___
___ 10:09PM BLOOD ___ PTT-29.4 ___
___ 05:25AM BLOOD ___ PTT-32.9 ___
___ 08:40AM BLOOD Glucose-98 UreaN-15 Creat-0.9 Na-137 
K-4.7 Cl-103 HCO3-25 AnGap-9*
___ 05:25AM BLOOD Glucose-97 UreaN-15 Creat-0.9 Na-138 
K-4.5 Cl-103 HCO3-22 AnGap-13
___ 08:40AM BLOOD Albumin-3.8 Calcium-9.1 Phos-3.2 Mg-2.2 
Cholest-109
___ 08:40AM BLOOD Triglyc-89 HDL-33* CHOL/HD-3.3 LDLcalc-58
___ 08:40AM BLOOD %HbA1c-4.5 eAG-82
___ 08:40AM BLOOD CRP-2.3
___ 08:40AM BLOOD TSH-3.8

=======
IMAGING
=======
- ___ MRI Brain
1. Punctate focus of subtle diffusion-weighted hyperintense 
signal of the left centrum semiovale, potentially representing 
late acute to subacute infarct. 
2. No evidence of definite acute infarction, hemorrhage or mass. 

3. Area of tissue loss in the right centrum semiovale extending 
anteriorly in the frontal lobe likely reflect a sequela of prior 
infarction. 
4. Nonspecific scattered and partially confluent white matter 
lesions in the cerebral hemispheres bilaterally likely reflect 
sequela of chronic small vessel ischemic changes. 
5. Mild paranasal sinus disease and partial opacification of the 
left mastoid  air cells. 
6. Additional findings described above. 

 
Brief Hospital Course:
___ is a ___ man with a past medical history of 
prior CVA, atrial fibrillation on Coumadin, hemolytic anemia who 
presented with acute onset right arm and leg weakness with 
aphasia to outside hospital where he was found to have a 
subtherapeutic INR of 1.5. Initial NIHSS was 22. He was last 
known normal at 18:45 on ___ and was given tPA at 20:30, then 
transferred to ___ for consideration of thrombectomy, though 
CTA had not shown any large vessel occlusions that would have 
been amenable to thrombectomy. On arrival here at 21:58, NIHSS 
was 1. 

His current weakness is only 4+ in the right triceps and IP 
bilaterally. Exam findings other than strength can be at least 
partially attributed to hearing difficulties. He does not have 
any language abnormalities.

MRI showed a punctate focus of subtle diffusion-weighted 
hyperintense signal of the left centrum semiovale, potentially 
representing late acute to subacute infarct. Given patient's 
fluctuating INR in the outpatient setting, he was transitioned 
to apixaban 5 mg BID while in house. He was discharged to rehab 
on ___. 

TRANSITIONAL ISSUES:
====================
# Patient transitioned from Coumadin to apixaban in house.

============================================  
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 58) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [x] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? () Yes - (x) No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [x] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) () N/A  
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Levothyroxine Sodium 150 mcg PO DAILY 
3. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
4. Finasteride 5 mg PO DAILY 
5. Warfarin 1 mg PO DAILY16 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth Twice daily 
Disp #*60 Tablet Refills:*2 
2.  amLODIPine 5 mg PO DAILY  
3.  Finasteride 5 mg PO DAILY  
4.  Levothyroxine Sodium 150 mcg PO DAILY  
5.  lisinopril-hydrochlorothiazide ___ mg oral DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute ischemic stroke
Atrial fibrillation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,  

 You were hospitalized due to symptoms of acute onset right arm 
and leg weakness with language problems resulting from an ACUTE 
ISCHEMIC STROKE, a condition where a blood vessel providing 
oxygen and nutrients to the brain is blocked by a clot. The 
brain is the part of your body that controls and directs all the 
other parts of your body, so damage to the brain from being 
deprived of its blood supply can result in a variety of 
symptoms.  

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 
- Atrial fibrillation
- Low INR

 We are changing your medications as follows:  

- Replaced Coumadin with apixaban 

Please take your other medications as prescribed.  
Please follow up with Neurology and your primary care physician 
as listed below.  

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___